US04638088
Part A: Preparation of 3,5-dichloro-4-(2-phenylphenylmethoxy)nitrobenzene
Into a 250 milliliter reaction flask equipped with a magnetic stirrer was added 10.04 grams (0.044 moles) of 3,4,5-trichloronitrobenzene, 8.16 grams (0.044 moles) of 2-phenylbenzyl alcohol, 1.29 grams (0.004 moles) of tetra-N-butylammonium bromide, 80 milliliters of toluene and aqueous sodium hydroxide (5.28 grams in 6.6 milliliters of water). The resulting mixture was stirred vigorously at ambient temperature overnight. The mixture was then diluted with water and filtered. The layers were separated and the organic layer was washed twice with water and finally once with a saturated aqueous sodium chloride solution. After drying over anhydrous sodium sulfate, the mixture was concentrated under vacuum to give a red-orange oil which was stirred into hexane. Crystallization from the hexane and filtration afforded a yellow-orange powder having a melting point of 83.0° C.-84.5° C.

reactant | 3,4,5-trichloronitrobenzene | 0.044 moles, 10.04 grams | ClC=1C=C(C=C(C1Cl)Cl)[N+](=O)[O-] | C6H2Cl3NO2
reactant | 2-phenylbenzyl alcohol | 0.044 moles, 8.16 grams | C1(=CC=CC=C1)C1=C(CO)C=CC=C1 | C13H12O
reactant | toluene | 80 milliliters | C1(=CC=CC=C1)C | C7H8
reactant | sodium hydroxide | 6.6 milliliters, 5.28 grams | [OH-].[Na+]
catalyst | tetra-N-butylammonium bromide | 0.004 moles, 1.29 grams | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 3,5-dichloro-4-(2-phenylphenylmethoxy)nitrobenzene | ClC=1C=C(C=C(C1OCC1=C(C=CC=C1)C1=CC=CC=C1)Cl)[N+](=O)[O-] | C19H13Cl2NO3
